US07271266B2
Methyl 5-(4-chlorophenyl)-2-[(5-chloropyridin-3-yl)oxy]-6-(2,4-dichlorophenyl)-nicotinate
Using the procedure described in Example 84, methyl 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-chloro-nicotinate Example 83 was reacted with 3-chloro-5-hydroxypyridine to afford the title compound: m/e=521 (M+3); Rt=4.65 min

reactant | methyl 6-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-2-chloro-nicotinate | ClC1=C(C=CC(=C1)Cl)C1=NC(=C(C(=O)OC)C=C1C1=CC=C(C=C1)Cl)Cl | C19H11Cl4NO2
reactant | 3-chloro-5-hydroxypyridine | ClC=1C=NC=C(C1)O | C5H4ClNO
product | Methyl 5-(4-chlorophenyl)-2-[(5-chloropyridin-3-yl)oxy]-6-(2,4-dichlorophenyl)-nicotinate | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)OC)C1)OC=1C=NC=C(C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C24H14Cl4N2O3
